// Stavros Stathoudakis
simulator lang=spice

.INCLUDE "/CASNFSHOME/home/tsaikaterini/IHP/IHP_Generation_files/130ng/ihp013ng_include_all.scs"
.INCLUDE "/CASNFSHOME/home/tsaikaterini/IHP/IHP_Generation_files/130ng/ixc013ng_stdcell_rc.scs"

.TEMP 0.0
.PARAM VVDVAL=1.080
.PARAM M=3
.PARAM Capacitance=0.5pf
VVDD VDD 0 'VVDVAL'
VGND VSS 0 0.000000
Vin  in1  0  PULSE(0 VVDVAL 5p 150p 150p 1n 2n)

// Chain
ncell1 vdd in1 out vdd vss NA2JIX0
ncell2 vdd out out2 vdd vss NA2JIX0
ncell3 vdd out2 out3 vdd vss NA2JIX0
ncell4 vdd out3 out4 vdd vss NA2JIX0
ncell5 vdd out4 out5 vdd vss NA2JIX0
ncell6 vdd out5 out6 vdd vss NA2JIX0
ncell7 vdd out6 out7 vdd vss NA2JIX0
ncell8 vdd out7 out8 vdd vss NA2JIX0
ncell9 vdd out8 out9 vdd vss NA2JIX0
ncell10 vdd out9 out1 vdd vss NA2JIX0
// Chain ends

//Gate load starts
.subckt FO4 out vdd vss
ncell11 vdd out out11 vdd vss NA2JIX0
ncell12 vdd out out12 vdd vss NA2JIX0
ncell13 vdd out out13 vdd vss NA2JIX0
.ends FO4

// FO4 instantiation
nfanout4_1 out vdd vss FO4
nfanout4_2 out2 vdd vss FO4
nfanout4_3 out3 vdd vss FO4
nfanout4_4 out4 vdd vss FO4
nfanout4_5 out5 vdd vss FO4
nfanout4_6 out6 vdd vss FO4
nfanout4_7 out7 vdd vss FO4
nfanout4_8 out8 vdd vss FO4
nfanout4_9 out9 vdd vss FO4
nfanout4_10 out1 vdd vss FO4
//Gate load ends



.TRAN 1e-13 2e-09

// Measurement of delay
.meas tran delay_out6 when V(out6)='VVDVAL/2' rise=1
.meas tran delay_out8 when V(out8)='VVDVAL/2' rise=1
.meas tran delay_out8_out6 param='(delay_out8 - delay_out6)'

.ALTER
.TEMP 50.0 

.ALTER
.TEMP 125.0

* ---- Auto-generated corners (TT) ----
* VSTEP = 0.01

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.090

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.090

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.090

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.100

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.100

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.100

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.110

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.110

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.110

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.120

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.120

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.120

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.130

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.130

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.130

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.140

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.140

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.140

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.150

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.150

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.150

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.160

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.160

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.160

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.170

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.170

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.170

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.180

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.180

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.180

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.190

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.190

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.190

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.200

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.200

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.200

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.210

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.210

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.210

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.220

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.220

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.220

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.230

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.230

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.230

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.240

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.240

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.240

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.250

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.250

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.250

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.260

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.260

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.260

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.270

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.270

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.270

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.280

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.280

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.280

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.290

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.290

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.290

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.300

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.300

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.300

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.310

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.310

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.310

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 0.0
.PARAM VVDVAL=1.320

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 50.0
.PARAM VVDVAL=1.320

* Auto .ALTER for fixed-V run
.ALTER
.TEMP 125.0
.PARAM VVDVAL=1.320

